US08445510B2
4-Bromo-3-methoxy-1-methyl-1H-pyrazole
A solution of 3-methoxy-1-methyl-1H-pyrazole (0.500 g, 4.46 mmol) in MeOH (50.0 mL) was cooled to 0° C. and charged with pyridinium tribromide (1.43 g, 4.46 mmol) in portions. The solution was stirred for 1 h at 0° C. then for an additional 16 h at rt. The reaction mixture was charged with sat. NaHCO3 (2.5 mL) and diluted with H2O and extracted with CHCl3 (3×). The combined organic fractions were dried over Na2SO4, filtered and concentrated in vacuo resulting in the title compound as a red oil. This material was used in the next step without further purification. 1H NMR (400 MHz, CD3OD): δ=3.66 (s, 3H), 4.07 (s, 3H), 7.30 (s, 1H). MS (ES+): m/z 190.98, 192.99 (49.5/50.5) [MH+]. HPLC: tR=2.29 min (polar—5 min, ZQ3).

reactant | 3-methoxy-1-methyl-1H-pyrazole | 4.46 mmol, 0.500 g | COC1=NN(C=C1)C | C5H8N2O
reactant | pyridinium tribromide | 4.46 mmol, 1.43 g | [Br-].[Br-].[Br-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | NaHCO3 | 2.5 mL | C(=O)(O)[O-].[Na+]
solvent | MeOH | 50.0 mL | CO | CH4O
solvent | H2O | O | H2O
product | 4-Bromo-3-methoxy-1-methyl-1H-pyrazole | BrC=1C(=NN(C1)C)OC | C5H7BrN2O
